US05239082
(a) Ethyl [[[2,6-bis(1-methylethyl)phenyl]amino]sulfonyl]acetate
Sulfoacetic acid (52 g, 371 mM) and EtOH (500 mL) were heated under reflux for 20 hours. The reaction mixture was cooled, and the excess ethanol was removed under vacuum to give 2 (see Chart I). A mixture of 2 (16.82 g, 100 mM) and POCl3 (30.67 g, 200 mM) was heated at 125° C. for 5 hours. The mixture was cooled and filtered, and excess POCl3 was removed to give 3 (see Chart I). Compound 3 (8.18 g, 43.83 mM) was added dropwise with stirring to a solution of 2,6-diisopropylaniline (15.54 g, 87.66 mM) in 50 mL CH2Cl2 maintained at 0° C. The mixture was stirred at room temperature for an additional 18 hours. The solvent was removed and the residue was redissolved in 100 mL ethyl acetate and washed with 1 N HCl and brine. The ethyl acetate was evaporated and the pure compound was isolated by chromatography over silica gel (EtOAc/hexane, 1:4 as eluant) as a white powder, 7.0 g (~50%), mp 114°-116° C.

reactant | Sulfoacetic acid | 371 mM, 52 g | S(=O)(=O)(O)CC(=O)O | C2H4O5S
reactant | EtOH | 500 mL | CCO | C2H6O
reactant | POCl3 | 200 mM, 30.67 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 2,6-diisopropylaniline | 87.66 mM, 15.54 g | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | Ethyl [[[2,6-bis(1-methylethyl)phenyl]amino]sulfonyl]acetate | CC(C)C1=C(C(=CC=C1)C(C)C)NS(=O)(=O)CC(=O)OCC | C16H25NO4S
